US09334269B2
To a solution of 2-chloro-4-(3-(4-chloro-2-fluorophenoxy)azetidin-1-yl)-1,3,5-triazine (0.800 g, 2.54 mmol) in Isopropanol (8 mL) was added DIPEA (0.7 mL, 3.81 mmol) and 3-amino-N-methylbenzamide (0.382 g, 2.54 mmol) and the reaction mixture was stirred at 80° C. for 24 h. The mixture was concentrated under reduced pressure and extracted with EtOAc (2×40 mL). The organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography to obtain 3-(4-(3-(4-chloro-2-fluorophenoxy)azetidin-1-yl)-1,3,5-triazin-2-ylamino)-N-methylbenzamide (0.527 g, 53%) as a solid. Observed mass (M+1): 428.9

reactant | 2-chloro-4-(3-(4-chloro-2-fluorophenoxy)azetidin-1-yl)-1,3,5-triazine | 2.54 mmol, 0.800 g | ClC1=NC=NC(=N1)N1CC(C1)OC1=C(C=C(C=C1)Cl)F | C12H9Cl2FN4O
reactant | DIPEA | 3.81 mmol, 0.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-amino-N-methylbenzamide | 2.54 mmol, 0.382 g | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
solvent | Isopropanol | 8 mL | C(C)(C)O | C3H8O
product | 3-(4-(3-(4-chloro-2-fluorophenoxy)azetidin-1-yl)-1,3,5-triazin-2-ylamino)-N-methylbenzamide | 0.527 g, 53% | ClC1=CC(=C(OC2CN(C2)C2=NC(=NC=N2)NC=2C=C(C(=O)NC)C=CC2)C=C1)F | C20H18ClFN6O2
